US04165378
To a stirred solution of diethyl (N-cyanoimido)carbonate (1.59 g.) in ethanol (15 ml.) at room temperature was added a solution of 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole (2.58 g.) in ethanol (25 ml.) over 15 minutes with sufficient cooling to maintain the temperature at about 20° C. The solution was stirred at room temperature for a further 30 minutes and then more diethyl (N-cyanoimido)carbonate (0.318 g.) in ethanol (3 ml.) was added. The solution was stirred at room temperature for 15 minutes and then evaporated to dryness under reduced pressure to give a pale yellow paste. This residue was dissolved in ethyl acetate (20 ml.) and the solution was washed with water (20 ml., 2×10 ml.) then dried (magnesium sulphate) and evaporated under reduced pressure to give 2-guanidino-4-[2-(3-cyano-2-ethylisoureido)ethylthiomethyl]thiazole containing a small amount of ethyl acetate. The n.m.r. spectrum in CDCl3 using tetramethylsilane as internal standard had the following resonances (δ): 6.5 (5H, very broad); 6.4 (1H, singlet); 4-4.5 (obscured by ethyl acetate); 3.6 (2H, singlet); 3.4 (2H, multiplet); 2.7 (2H, multiplet); 2.0 (ethyl acetate); 1.2-1.5 (obscured by ethyl acetate).

reactant | 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole | 2.58 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-guanidino-4-[2-(3-cyano-2-ethylisoureido)ethylthiomethyl]thiazole | N(C(=N)N)C=1SC=C(N1)CSCCNC(OCC)=NC#N | C11H17N7OS2
